US08106070B2
Dess-Martin periodinane (355 mg, 0.84 m mol) was added to an ambient temperature solution of 2-[4-(5-fluoropyridin-2-yl)benzyl]-N-(2-hydroxy-4,4-dimethylhexyl)-5-oxopyrrolidine-2-carboxamide (185 mg, 0.42 mmol) in methylene chloride (5 mL). After stirring at ambient temperature for 2 hr, the reaction mixture was quenched with saturated aqueous sodium bicarbonate/saturated aqueous sodium thiosulfate (1:1) was and extracted with ethyl acetate. The combined organic extracts were washed with brine, dried (sodium sulfate) and concentrated in vacuo. Chromatography over silica eluting with 20-60% acetone/methylene chloride afforded N-(4,4-dimethyl-2-oxohexyl)-2-[4-(5-fluoropyridin-2-yl)benzyl]-5-oxopyrrolidine-2-carboxamide.

reactant | Dess-Martin periodinane | 355 mg | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
reactant | 2-[4-(5-fluoropyridin-2-yl)benzyl]-N-(2-hydroxy-4,4-dimethylhexyl)-5-oxopyrrolidine-2-carboxamide | 0.42 mmol, 185 mg | FC=1C=CC(=NC1)C1=CC=C(CC2(NC(CC2)=O)C(=O)NCC(CC(CC)(C)C)O)C=C1 | C25H32FN3O3
solvent | methylene chloride | 5 mL | C(Cl)Cl | CH2Cl2
product | N-(4,4-dimethyl-2-oxohexyl)-2-[4-(5-fluoropyridin-2-yl)benzyl]-5-oxopyrrolidine-2-carboxamide | CC(CC(CNC(=O)C1(NC(CC1)=O)CC1=CC=C(C=C1)C1=NC=C(C=C1)F)=O)(CC)C | C25H30FN3O3
